US04843076
10 g of (+)-(2S,4S)pentane-2,4-diol and 13.6 g of trimethylphosphite were mixed, and heated at 100° C. on an oil bath. After completion of distilling methanol off, the residue is distilled under reduced pressure to obtain colorless transparent 2-methoxy-(4S,6S)-4,6-dimethyl-1,3,2-dioxaphosphorinane. bp: 70°-72° C./15 mmHg.

reactant | (+)-(2S,4S)pentane-2,4-diol | 10 g | C[C@@H](C[C@H](C)O)O | C5H12O2
reactant | trimethylphosphite | 13.6 g | COP(OC)OC | C3H9O3P
product | 2-methoxy-(4S,6S)-4,6-dimethyl-1,3,2-dioxaphosphorinane | COP1O[C@H](C[C@@H](O1)C)C | C6H13O3P
